US04018930
A mixture of 24.6 g of N-aminoiminodibenzyl (5-amino-10,11-dihydro-5H-dibenz[b,f]azepine) and 14.8 g of 4-piperidone hydrochloride in 250 ml. ethanol was heated on a steam bath for 15 minutes 1,2,3,4,4cooled; 8,9,14a-octahydropyridoof 20 g. indoloconcentrated sulfuric acid in 250 ml. ethanol was added. The resulting mixture was reheated on the steam bath for an additional 40 minutes; the solution which formed was cooled, basified with ammonia, and diluted with 1 liter of water. The crude, semisolid material which separated was taken up in ether, and the aqueous mother liquors were extracted with additional portions of ether. The combined ethereal extracts were concentrated to 500 ml. and treated, under an atmosphere of nitrogen and with vigorous stirring, with 50 ml. of 5N hydrochloric acid. The resulting precipitate was filtered off, washed with ether and C (dec). 1N hydrochloric acid, and dried in vacuo at 100° to yield 1,2,3,8,9-hexahydropyrido[4',3':2,3]=indolo[1,7ab][1]benzazepine hydrochloride, m.p. 309°, a salt only very slightly soluble in water. Dissolving the above salt in aqueous acetic acid, basifying with ammonia, filtering off the crude product and recrystallizing it from benzene regenerated the free 1,2,3,4,8,9-hexahydropyrido[4',3':2,3]indolo[1,7-ab][1]benzazepine, m.p. 134°-136° C.

reactant | N-aminoiminodibenzyl (5-amino-10,11-dihydro-5H-dibenz[b,f]azepine) | 24.6 g | NN=C(C1=CC=CC=C1)C1=C(C=CC=2N(C3=C(CCC21)C=CC=C3)N)CC3=CC=CC=C3 | C28H26N4
reactant | 4-piperidone hydrochloride | 14.8 g | Cl.N1CCC(CC1)=O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | N | H3N
solvent | water | 1 liter | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | indolo[1,7ab][1]benzazepine hydrochloride | Cl.C1=CC2=CC=CC3=C2N1C1=C(C=C3)C=CC=C1 | InChI=1S/C16H11N.ClH/c1-2-7-15-12(4-1)8-9-13-5-3-6-14-10-11-17(15)16(13)14;/h1-11H;1H
